US05990102
(4R,SR/4S,SS) 4-(Phenylsulphinyl)-N-(4-phenyl-2-oxobutyl)azetidin-2-one
A solution of 4-phenylthio-N-(4-phenyl-2-oxobutyl)azetidin-2-one (2.3 g, 7 mmol) in dichloromethane (80 ml) was cooled to -50 to -60° C. and a solution of m-chloroperbenzoic acid (1.5 g, 9 mmol) in dichloromethane (60 ml) was added dropwise with stirring over 40 min. After a further 2 hr. at -50 to -60° C. another portion of m-chloroperbenzoic acid (61 mg, 0.35 mmol) was added and stirring continued for 30 min. The reaction mixture was then shaken with a mixture of saturated aqueous sodium sulphite and saturated sodium hydrogen carbonate and the organic layer collected, dried (MgSO4) and evaporated. Crystallisation from ether then dichloromethane/ether gave the product as a white crystalline solid, mp 125-6° C., 27% yield 1H NMR δ (CDCl3), 2.78 (2H, m, CH2CO), 2.87 (1H, dd, J=4.7, 15.0 Hz, H3a), 2.94 (2H, m, CH2Ph), 3.42 (1H, dd, J=2.0, 15.0 Hz, H3b), 3.85, 4.46 (each 1H, d, J=18.9 Hz, CH2N), 4.73 (1H, dd, J=2.1, 4.7 Hz, H4), 7.17-7.35 (5H, m, Ph--H), 7.55 (5H, s, SOPh--H). Found: C, 66.7; H, 5.7; N, 4.2%; C19H19NO3S requires: C, 66.8; H, 5.6; N, 4.1%

reactant | 4-phenylthio-N-(4-phenyl-2-oxobutyl)azetidin-2-one | 7 mmol, 2.3 g | C1(=CC=CC=C1)SC1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C19H19NO2S
reactant | m-chloroperbenzoic acid | 9 mmol, 1.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.35 mmol, 61 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(Phenylsulphinyl)-N-(4-phenyl-2-oxobutyl)azetidin-2-one | 27% yield | C1(=CC=CC=C1)S(=O)C1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C19H19NO3S
